US06455587B1
To a stirred solution of Nα-isobutyl-Nε-benzyloxycarbonyl-L-lysine (213 mg, 0.50 mmol) in CH2Cl2 (5 mL) was added benzoyl chloride (140 mg, 1.00 mmol) and DIEA (130 mg, 1.00 mmol). The reaction mixture was stirred at room temperature for 1 h and then diluted with 1N HCl. The mixture was extracted with EtOAc, dried over MgSO4 and evaporated to dryness. The residue was purified by flash chromatography. Elution with 70% EtOAc in hexane provided Nα-isobutyl-Nα-benzoyl-Nε-benzyloxycarbonyl-L-lysine that was further hydrogenolyzed using 10% Pd/C and then treated with 9-fluorenylmethyl chloroformate instead of N-(9-fluorenylmethoxycarbonyloxy) succinimide as outlined in step D of example 38 to provide the title compound (90% yield).

reactant | Nα-isobutyl-Nε-benzyloxycarbonyl-L-lysine | 0.50 mmol, 213 mg | C(C(C)C)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C18H28N2O4
reactant | benzoyl chloride | 1.00 mmol, 140 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | DIEA | 1.00 mmol, 130 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 1N | Cl | ClH
product | Nα-isobutyl-Nα-benzoyl-Nε-benzyloxycarbonyl-L-lysine | C(C(C)C)N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C(C1=CC=CC=C1)=O | C25H32N2O5
